US07504401B2
To 0.100 g (0.174 mmol) [3-(2-chloro-6-methyl-pyridine-4-carbonyl)-5-(1-triisopropylsilanyl-1H-indol-4-yl)-phenyl]-carbamic acid methyl ester in 2.0 mL of anhydrous dioxane in a pressure tube was added 0.034 g (0.24 mmol) potassium carbonate and 0.015 g (0.24 mmol) methylboronic acid. The reaction mixture was degassed with argon and then 0.006 g (0.005 mmol) Pd(PPh3)4 was added. The reaction mixture was capped and heated at 110° C. for 24 hours. The reaction mixture was diluted with water and extracted with ethyl acetate. The ethyl acetate phase was washed with brine and dried over anhydrous sodium sulfate. The solution was filtered and concentrated. The crude product was chromatographed on silica gel using 10:1 methylene chloride:methanol to give 0.060 g of [3-(2,6-dimethyl-pyridine-4-carbonyl)-5-(1-triisopropylsilanyl-1H-indol-4-yl)-phenyl]-carbamic acid methyl ester. The protecting group was removed as described in Example 75 to give [3-(2,6-dimethyl-pyridine-4-carbonyl)-5-(1H-indol-4-yl)-phenyl]-carbamic acid methyl ester. 1H NMR (400 MHz, CDCl3): δ 8.50 (s, 1H), 8.12 (s, 1H), 7.79-7.75 (m, 2H), 7.40 (d, J=8.2 Hz, 1H), 7.29 (s, 2H), 7.27-7.22 (m, 2H), 7.17 (dd, J=7.3, 0.9 Hz, 1H), 7.05 (s, 1H), 6.72 (s, 1H), 3.79 (s, 3H), 2.60 (s, 6H).

reactant | [3-(2-chloro-6-methyl-pyridine-4-carbonyl)-5-(1-triisopropylsilanyl-1H-indol-4-yl)-phenyl]-carbamic acid methyl ester | 0.174 mmol, 0.100 g | COC(NC1=CC(=CC(=C1)C1=C2C=CN(C2=CC=C1)[Si](C(C)C)(C(C)C)C(C)C)C(=O)C1=CC(=NC(=C1)C)Cl)=O | C32H38ClN3O3Si
reactant | potassium carbonate | 0.24 mmol, 0.034 g | C([O-])([O-])=O.[K+].[K+]
reactant | methylboronic acid | 0.24 mmol, 0.015 g | CB(O)O | CH5BO2
solvent | dioxane | 2.0 mL | O1CCOCC1 | C4H8O2
solvent | water | O | H2O
catalyst | Pd(PPh3)4 | 0.005 mmol, 0.006 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | [3-(2,6-dimethyl-pyridine-4-carbonyl)-5-(1-triisopropylsilanyl-1H-indol-4-yl)-phenyl]-carbamic acid methyl ester | 0.060 g | COC(NC1=CC(=CC(=C1)C1=C2C=CN(C2=CC=C1)[Si](C(C)C)(C(C)C)C(C)C)C(=O)C1=CC(=NC(=C1)C)C)=O | C33H41N3O3Si
